US09145414B2
10% Palladium on carbon (300 mg) was added to a solution of 7-cyclopropyl-2-methyl-5-nitro-2H-indazole obtained in the above-described Step 1 (311 mg) in ethyl acetate (5 mL) under nitrogen atmosphere, and the reaction solution was stirred under hydrogen atmosphere at room temperature overnight. The insolubles were filtrated, then the solvent was evaporated under vacuum, and the resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain 7-cyclopropyl-2-methyl-2H-indazol-5-amine as brown amorphous.

reactant | 7-cyclopropyl-2-methyl-5-nitro-2H-indazole | C1(CC1)C1=CC(=CC2=CN(N=C12)C)[N+](=O)[O-] | C11H11N3O2
catalyst | Palladium on carbon | 300 mg | [Pd] | Pd
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 7-cyclopropyl-2-methyl-2H-indazol-5-amine | C1(CC1)C1=CC(=CC2=CN(N=C12)C)N | C11H13N3
